US07525717B2
2-Bromo-1-ethyl-1H-benzimidazole
To a flask were added 4 g 2-bromo-1H-benzimidazole and 60 ml tetrahydrofuran, and the mixture was cooled to 10 C. To this mixture was added 1.2 g of 60% sodium hydride in mineral oil in small portions, and after stirring at 10 C for ten minutes, 4.7 g of diethyl sulfate were added. The reaction mixture was heated to 40 C for several hours, then cooled to 22 C and quenched with 100 ml water. The product was extracted twice with 50 ml ethyl acetate and following removal of the solvent, the product was purified by silica gel chromatography using a gradient from 100% hexane to 25% ethyl acetate in hexane. An oil was obtained that crystallized on standing which was dried resulting in 4.2 g of a white solid.

reactant | 2-bromo-1H-benzimidazole | 4 g | BrC1=NC2=C(N1)C=CC=C2 | C7H5BrN2
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | diethyl sulfate | 4.7 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-Bromo-1-ethyl-1H-benzimidazole | 4.2 g | BrC1=NC2=C(N1CC)C=CC=C2 | C9H9BrN2
